US05070086
Reflux a mixture of 2,3-dihydro-10-phenylimidazo-[1,2-g][1,6]naphthyridin-5(1H)-one (5.5 g), acetic anhydride (10 ml), and pyridine (60 ml) for 30 hours. Cool the reaction mixture and evaporate the volatile reagents--i.e., excess pyridine and acetic anhydride. Partition the residue between chloroform and water, and dry, filter, and concentrate the organic solution Chromatograph the residue over silica gel, elute the column with chloroform, and crystallize the eluate from chloroform-petroleum ether to obtain 1-acetyl-2,3-dihydro-10-phenyl-imidazo[1,2-g][1,6]naphthyridin-5(1H)-one, mp 229°-231° C.

reactant | 2,3-dihydro-10-phenylimidazo-[1,2-g][1,6]naphthyridin-5(1H)-one | 5.5 g | C1(=CC=CC=C1)C1=C2N(C(C=3C=CC=NC13)=O)CCN2 | C16H13N3O
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyl-2,3-dihydro-10-phenyl-imidazo[1,2-g][1,6]naphthyridin-5(1H)-one | C(C)(=O)N1CCN2C(C=3C=CC=NC3C(=C21)C2=CC=CC=C2)=O | C18H15N3O2
